US07902252B2
4.30. Synthesis of 6-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (111)
The title compound was synthesized from methyl 6-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (116 mg, 0.45 mmol) and lithium hydroxide (188 mg, 4.50 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by chromatography. eluting with heptane-EtOAc, gradient 0 to 50% EtOAc. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.28-2.39 (m, J=12.87, 8.60, 6.35, 6.35 Hz, 1H), 2.64-2.74 (m, 1H), 2.74-2.85 (m, 1H), 2.90-3.01 (m, J=12.83, 8.48, 8.48, 4.32 Hz, 1H), 4.23-4.31 (m, 1H), 6.80-6.87 (m, 2H), 6.89-6.97 (m, 2H), 7.23-7.32 (m, 1H), 8.74 (br. s, 1H). LCMS m/e 246 (M+H). Purity>98% (HPLC).

reactant | methyl 6-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.45 mmol, 116 mg | FC=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)OC | C15H14FNO2
reactant | lithium hydroxide | 4.50 mmol, 1 mL, 188 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | FC=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)O | C14H12FNO2
